US09107916B2
B. 2-[5-(4-Methylphenyl)-1H-pyrazol-1-yl]pyridine-4-carbonitrile
A mixture of 2-hydrazinylpyridine-4-carbonitrile hydrochloride salt (124 mg, 0.6 mmol, PREPARATION 3) and (2E)-3-(dimethylamino)-1-(4-methylphenyl)prop-2-en-1-one (95 mg, 0.5 mmol) in 2-methoxyethanol (3 mL) was stirred at 100° C. for 2 h. The reaction mixture was cooled, concentrated, and dissolved in EtOAc and then washed with water and brine. The organic phase was dried, concentrated, triturated with EA/PE (1:10, 5 mL), filtered, and dried to give the title compound (120 mg, 92%) as a yellow solid. 1H NMR (400 MHz, CDCl3): δ 2.38 (3H, s), 6.49 (1H, d, J=1.6 Hz), 7.16 (4H, s), 7.38 (1H, dd, J=5.2, 1.2 Hz), 7.76 (1H, d, J=1.2 Hz), 7.90 (1H, s), 8.44 (1H, d, J=5.2 Hz).

reactant | 2-hydrazinylpyridine-4-carbonitrile hydrochloride salt | 0.6 mmol, 124 mg | Cl.N(N)C1=NC=CC(=C1)C#N
reactant | (2E)-3-(dimethylamino)-1-(4-methylphenyl)prop-2-en-1-one | 0.5 mmol, 95 mg | CN(/C=C/C(=O)C1=CC=C(C=C1)C)C | C12H15NO
solvent | 2-methoxyethanol | 3 mL | COCCO | C3H8O2
product | 2-[5-(4-Methylphenyl)-1H-pyrazol-1-yl]pyridine-4-carbonitrile | 120 mg, 92% | CC1=CC=C(C=C1)C1=CC=NN1C1=NC=CC(=C1)C#N | C16H12N4
